* Schematics Netlist *



R_R11         $N_0002 $N_0001  1k  
R_R12         $N_0004 $N_0003  1k  
R_R8         $N_0003 $N_0005  100K  
R_R9         $N_0006 $N_0002  {RL}  
R_R10         $N_0001 0  100k  
X_U1         $N_0001 $N_0003 $N_0007 0 $N_0005 OP-07
Q_Q1         $N_0011 $N_0010 0 BC547B 
V_V2         $N_0007 0 24V
R_R16         $N_0005 $N_0010  40k  
R_R5         $N_0002 $N_0007  10K  
R_R4         0 $N_0004  10K  
R_R3         $N_0004 $N_0007  10K  
R_R13         0 $N_0006  10K  
R_R15         $N_0011 $N_0007  1.5k  
